US04172198
In a similar manner to that of Example 1--1), 4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carbonyl chloride, which was prepared from 4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid (1.8 g) and thionyl chloride (36 ml), was treated with a solution of 7-(D-2-phenylglycinamido)-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid formate (2.5 g) and bis(trimethylsilyl)acetamide (4.0 g) in methylene chloride (50 ml). Thus obtained reaction mixture was worked up in a similar manner to that of Example 1-4) to give powder (650 mg) of 7-[D-2-(4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamido)-2-phenylacetamide]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid, mp 103° to 105° C. (dec).

reactant | 4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 1.8 g | O=C1C(=CN=C2N1C=CC=C2)C(=O)O | C9H6N2O3
reactant | thionyl chloride | 36 ml | S(=O)(Cl)Cl | Cl2OS
reactant | bis(trimethylsilyl)acetamide | 4.0 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carbonyl chloride | O=C1C(=CN=C2N1C=CC=C2)C(=O)Cl | C9H5ClN2O2
